US04005217
1-Methoxycarbonyl-3-(2-dimethylaminoacetamidophenyl)thiourea (3.0 g) was dissolved in the minimum quantity of ethanol and the solution treated with diethyl ether (300 ml), followed by an excess of a saturated solution of hydrogen chloride in diethyl ether. The resultant solid was filtered off and recrystallised from ethanol to give 1-methoxycarbonyl-3-(2-dimethylaminoacetamidophenyl)thiourea hydrochloride (2.8 g) m.p. 187°-188° C. (with decomposition).

reactant | 1-Methoxycarbonyl-3-(2-dimethylaminoacetamidophenyl)thiourea | 3.0 g | COC(=O)NC(=S)NC1=C(C=CC=C1)NC(CN(C)C)=O | C13H18N4O3S
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 1-methoxycarbonyl-3-(2-dimethylaminoacetamidophenyl)thiourea hydrochloride | 2.8 g | Cl.COC(=O)NC(=S)NC1=C(C=CC=C1)NC(CN(C)C)=O | InChI=1S/C13H18N4O3S.ClH/c1-17(2)8-11(18)14-9-6-4-5-7-10(9)15-12(21)16-13(19)20-3;/h4-7H,8H2,1-3H3,(H,14,18)(H2,15,16,19,21);1H
